US06531502B1
4-(2-carboxyethyl)-3-methyl-5-(4-methyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid (300 mg) suspended in ethylene glycol (5 mL) was heated in a sealed tube in a pre-heated oil bath at 200° C. for 2 hours. The reaction mixture was cooled to 90° C. and potassium hydroxide (1 pellet) was added. It was then stirred at 90° C. for 30 minutes. The reaction mixture was cooled, poured into water, and acidified with 2 N hydrochloric acid to pH 2. The precipitate was filtered, washed with water, and purified on a silica gel column to give 115 mg (44% yield) of 3-[2-(4-methyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrol-3-yl]-propionic acid.

reactant | 4-(2-carboxyethyl)-3-methyl-5-(4-methyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid | 300 mg | C(=O)(O)CCC=1C(=C(NC1C=C1C(NC2=CC=CC(=C12)C)=O)C(=O)O)C | C19H18N2O5
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethylene glycol | 5 mL | C(CO)O | C2H6O2
product | 3-[2-(4-methyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrol-3-yl]-propionic acid | 115 mg, 44% yield | CC1=C2C(C(NC2=CC=C1)=O)=CC=1NC=C(C1CCC(=O)O)C | C18H18N2O3
